US04927845
Preparation of 10-(Methoxycarbonylethylthio)-1,8-Dihydroxy-9-Anthrone
10-Bromo-1,8-dihydroxy-9-anthrone (122 mg) was dissolved in dichloromethane (8 ml) and then methyl 3-mercaptopropionate (0.05 ml) was added. The red-brown solution became yellow-green immediately after addition of the thiol. The solution was stirred at room temperature for 5 hours. Removal of the solvent and recrystallisation of the residue from hexane gave the product (107.5 mg, 78%) as yellow needles, melting point 92°-94° C. (with decomposition). (Found: C 62.9, H 4.7, S 9.4%. C18H16O5S requires C 62.8, H 4.7, S 9.3%).

reactant | 10-Bromo-1,8-dihydroxy-9-anthrone | 122 mg | BrC1C=2C=CC=C(C2C(C2=C(C=CC=C12)O)=O)O | C14H9BrO3
reactant | methyl 3-mercaptopropionate | 0.05 ml | SCCC(=O)OC | C4H8O2S
solvent | dichloromethane | 8 ml | ClCCl | CH2Cl2
product | 10-(Methoxycarbonylethylthio)-1,8-Dihydroxy-9-Anthrone | 107.5 mg, 78% | COC(=O)CCSC1C=2C=CC=C(C2C(C2=C(C=CC=C12)O)=O)O | C18H16O5S
